US05135838
Synthesis of 2-methyl-6-nitrobenzyl tosylate
A 100 mL round bottomed flask equipped with a dropping funnel was charged with 2.50 g of 2-methyl-6-nitrobenzyl alcohol and 3.14 g of tosyl chloride dissolved in 30 mL of dry acetone under argon. To the mixture was added dropwise 3.30 mL of dicylohexylamine dissolved in 5 mL of dry acetone while cooling so as to keep the temperature below 15° C. The reaction mixture was brought to room temperature and stirred for 1 day. The mixture was filtered to remove dicyclohexylamine hydrochloride, the solvent removed under vacuum, and the residue chromatographed over silica gel using carbon tetrachloride as the eluent. The product was recrystallized from methylene chloride/pentane to give 1.82 g (38% yield) of white crystals.

reactant | 2-methyl-6-nitrobenzyl alcohol | 2.50 g | CC1=C(CO)C(=CC=C1)[N+](=O)[O-] | C8H9NO3
reactant | tosyl chloride | 3.14 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | dicylohexylamine | 3.30 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-methyl-6-nitrobenzyl tosylate | 1.82 g, 38% yield | S(=O)(=O)(OCC1=C(C=CC=C1[N+](=O)[O-])C)C1=CC=C(C)C=C1 | C15H15NO5S
